US06713477B1
Step 1: 2-[2-(2-Fluorophenyl)-3-(2-phenylethyl)-4-oxo-thiazolidin-5-yl]-acetic Acid
A solution of phenylethylamine (85 μl), 2-fluorobenzaldehyde (143 μl) and mercaptosuccinic acid (306 mg) and trimethyl orthoformate (0.5 mL) in THP (3 mL) was heated at 80° C. for 4 hrs. The reaction mixture was cooled, diluted with EtOAc (2 mL) and washed twice with 2 ml of 1N HCl. The organic layer was concentrated to give a residue that was used in the next step without further purification.

reactant | phenylethylamine | 85 μl | C1(=CC=CC=C1)CCN | C8H11N
reactant | 2-fluorobenzaldehyde | 143 μl | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | mercaptosuccinic acid | 306 mg | SC(C(=O)O)CC(=O)O | C4H6O4S
reactant | trimethyl orthoformate | 0.5 mL | C(OC)(OC)OC | C4H10O3
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | 2-[2-(2-Fluorophenyl)-3-(2-phenylethyl)-4-oxo-thiazolidin-5-yl]-acetic Acid | FC1=C(C=CC=C1)C1SC(C(N1CCC1=CC=CC=C1)=O)CC(=O)O | C19H18FNO3S
